US04115417
Sodium (12 g.) was dissolved in 192 ml. of ethanol and to this solution was added dropwise 60.5 g. of geranylacetone and 102.4 g. of triethylphosphonoacetate in 240 ml. of benzene. The reaction mixture was stirred overnight, then poured over 180 g. of ice and 180 ml. of water. The resulting mixture was extracted twice with 70 ml. of benzene. The organic phases were washed with H2O, dried over MgSO4 and concentrated under reduced pressure. Vacuum distillation gave 66.6 g. (81% yield) of ethyl-3,7,11-trimethyldodeca-2,6,10-trienoate having at C2C3, E/Z ≃ 4.25 and at C6C7, E/Z ≃ 1.5; b.p. 160°-165° C. (0.25 mmHg); 81% yield based on geranyl acetone. This ester was hydrolyzed by the procedure of Example 1 to 3,7,11-trimethyldodeca-2,6,10-trienoic acid having at C2C3E/Z ≃ 3.5 and at C6C7E/Z ≃ 1.5, b.p. 175° C. (1 mm). Yield 46.2 g. (86% based on the ester).

reactant | Sodium | 12 g | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
reactant | geranylacetone | C(\C=C(/C)\CCC=C(C)C)CC(C)=O | C13H22O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | water | O | H2O
product | ethyl-3,7,11-trimethyldodeca-2,6,10-trienoate | 81% yield | C(C)OC(C=C(CCC=C(CCC=C(C)C)C)C)=O | C17H28O2
